US09315525B2
Synthesis of 4,4,5,5-tetramethyl-2-(phenylethynyl)-1,3,2-dioxaborolane (IIId)
To a stirred solution of IId′ (10 mL, 91 mmol) in dry THF (50 mL) at −78° C. was added n-BuLi (2.5 M in n-hexane, 40 mL, 100 mmol). Another flask was charged with 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (18.7 mL, 91 mmol) in dry THF (100 mL) under argon atmosphere, and the reaction mixture was cooled to −78° C. The lithium acetylide from the first flask, which was cooled to −78° C., was slowly added to the second by a double-ended needle. The mixture was stirred at −78° C. for 2 hours, after which anhydrous HCl (105 mmol) was added. Then, reaction mixture was warmed to room temperature. After removal of the precipitated LiCl by filtration and removal of solvents under reduced pressure, the residue was purified by distillation (185-200° C./15 mbar) to afford IIId (16.05 g, 76%) as a colourless oil.

reactant | n-BuLi | 100 mmol, 2.5 M, 40 mL | [Li]CCCC
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 91 mmol, 18.7 mL | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
reactant | lithium acetylide | [C-]#[C-].[Li+].[Li+]
reactant | HCl | 105 mmol | Cl | ClH
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | THF | 100 mL | C1CCOC1 | C4H8O
product | 4,4,5,5-tetramethyl-2-(phenylethynyl)-1,3,2-dioxaborolane | CC1(OB(OC1(C)C)C#CC1=CC=CC=C1)C | C14H17BO2
